US08648099B2
b) 5-(4-Chlorophenyl)-N-(4-(2-hydroxyethyl)piperazin-1-yl)-6-(2,2,2-trifluoroethoxy)-3-pyridinecarboxamide
Acetic acid 2-(4-{[5-(4-chloro-phenyl)-6-(2,2,2-trifluoro-ethoxy)-pyridine-3-carbonyl]-amino}-piperazin-1-yl)-ethyl ester (100 mg, 200 μmol) was combined with THF (2 mL), methanol (1 mL) and water (1 mL) to give a light yellow solution. Lithium hydroxide (14.3 mg, 599 μmol) was added and the mixture was stirred for 1 h at room temperature. Subsequently the reaction mixture was concentrated in vacuo and the residue was purified by flash chromatography (silica gel, 12 g, 0% to 100% ethyl acetate in n-heptane) to give the title compound (32 mg, 35%) as light yellow solid; MS (EI) 459.2 (M+H)+.

reactant | Acetic acid 2-(4-{[5-(4-chloro-phenyl)-6-(2,2,2-trifluoro-ethoxy)-pyridine-3-carbonyl]-amino}-piperazin-1-yl)-ethyl ester | 200 μmol, 100 mg | ClC1=CC=C(C=C1)C=1C=C(C=NC1OCC(F)(F)F)C(=O)NN1CCN(CC1)CCOC(C)=O | C22H24ClF3N4O4
reactant | THF | 2 mL | C1CCOC1 | C4H8O
reactant | methanol | 1 mL | CO | CH4O
reactant | Lithium hydroxide | 599 μmol, 14.3 mg | [OH-].[Li+]
solvent | water | 1 mL | O | H2O
product | 5-(4-Chlorophenyl)-N-(4-(2-hydroxyethyl)piperazin-1-yl)-6-(2,2,2-trifluoroethoxy)-3-pyridinecarboxamide | 32 mg, 35% | ClC1=CC=C(C=C1)C=1C=C(C=NC1OCC(F)(F)F)C(=O)NN1CCN(CC1)CCO | C20H22ClF3N4O3
